US07560546B2
5-Bromo-3-[(3-oxopiperazin-1-yl)sulfonyl]-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and morpholine with piperazin-2-one trifluoroacetate, the title compound was obtained after purification by preparative reversed phase HPLC. Proton NMR for the product was consistent with the titled compound. ESI+MS: 402.1 [M+H]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | piperazin-2-one trifluoroacetate | FC(C(=O)O)(F)F.N1C(CNCC1)=O
product | 5-Bromo-3-[(3-oxopiperazin-1-yl)sulfonyl]-1H-indole-2-carboxamide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CC(NCC1)=O | C13H13BrN4O4S
